US06890935B2
3-Bromo-5-(3-pyridyloxy)pyridine
To a solution of 3-pyridinol (4.32 g, 45 mmol) in dimethylformamide (50 mL) was added sodium hydride (1.35 g of a 80% suspension in mineral oil, 45 mmol). The mixture was stirred for 1 h at room temperature and 3,5-dibromopyridine (5.92 g, 25 mmol) was added. The mixture was heated for 20 h at 130° C., then cooled to room temperature and poured into water (300 mL). The aqueous phase was extracted with diethyl ether (3×100 mL) and the organic phase was washed with water (2×100 mL) and brine (100 mL), then dried (MgSO4), filtered and concentrated by rotary evaporation. The crude product was purified by column chromatography, eluting with ethyl acetate/cyclohexane (30/70, v/v). Selected fractions containing the product were concentrated via rotary evaporation to give 3.5 g (56%) of a yellow oil.

reactant | 3-pyridinol | 45 mmol, 4.32 g | N1=CC(=CC=C1)O | C5H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | 3,5-dibromopyridine | 25 mmol, 5.92 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | water | 300 mL | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-Bromo-5-(3-pyridyloxy)pyridine | 3.5 g, 56% | BrC=1C=NC=C(C1)OC=1C=NC=CC1 | C10H7BrN2O
